US05232940
Ethyl chloroformate (1.6 g) was added to a stirred solution of 5-amino-4-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-trifluoromethylpyrazole (3.9 g) in pyridine (15 ml). After stirring overnight another addition of ethyl chloroformate (1.0 ml) was made, and the mixture was left for a further 12 hours. The solvent was evaporated in vacuo and the residue was acidified with dilute hydrochloric acid, and extracted with dichloromethane. This extract was washed with water (3×), dried over anhydrous magnesium sulphate, filtered, and evaporated in vacuo. Purification by chromatography on silica (Merck, 40-230 mesh, 0.7 kg cm-2) eluting with ethyl acetate-petroleum ether (1:1) gave a white solid, which was recrystallized from a mixture of dichloromethane and hexane to furnish white crystals of 4-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-5-ethoxycarbonylamino-3-trifluoromethylpyrazole, m.p. 177°-179° C.

reactant | Ethyl chloroformate | 1.6 g | ClC(=O)OCC | C3H5ClO2
reactant | 5-amino-4-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-trifluoromethylpyrazole | 3.9 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C(F)(F)F)C#N | C12H4Cl2F6N4
reactant | ethyl chloroformate | 1.0 ml | ClC(=O)OCC | C3H5ClO2
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 4-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-5-ethoxycarbonylamino-3-trifluoromethylpyrazole | C(#N)C=1C(=NN(C1NC(=O)OCC)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C(F)(F)F | C15H8Cl2F6N4O2
